US05728835
4-Trifluoroacetylamino-N-{2-[4-(4-fluorobenzoyl)-piperidino]ethyl}-N-(2-methoxyphenyl)benzamide
Using 4-amino-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(2-methoxyphenyl)benzamide (200.0 mg, 0.42 mmol) and trifluoroacetic anhydride (0.18 ml, 1.26 mmol), the procedure of Inventive Example 94 was repeated to obtain 253.3 mg (quantitative) of the title compound in a colorless amorphous form.

reactant | 4-amino-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(2-methoxyphenyl)benzamide | 0.42 mmol, 200.0 mg | NC1=CC=C(C(=O)N(C2=C(C=CC=C2)OC)CCN2CCC(CC2)C(C2=CC=C(C=C2)F)=O)C=C1 | C28H30FN3O3
reactant | trifluoroacetic anhydride | 1.26 mmol, 0.18 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | 4-Trifluoroacetylamino-N-{2-[4-(4-fluorobenzoyl)-piperidino]ethyl}-N-(2-methoxyphenyl)benzamide | FC(C(=O)NC1=CC=C(C(=O)N(C2=C(C=CC=C2)OC)CCN2CCC(CC2)C(C2=CC=C(C=C2)F)=O)C=C1)(F)F | C30H29F4N3O4
